US04588433
A solution of 28 g (0.25 mol) of potassium tert.-butylate in 120 ml of tetrahydrofuran was slowly added dropwise to a solution of 33.6 g (0.2 mol) of methyl 2-mercapto-benzoate in 50 ml of tetrahydrofuran at 5° C. At the end of the dropwise addition, stirring was continued at 5° C. for a further 30 minutes. The solid product precipitated was filtered off with suction and dissolved in 100 ml of dimethylformamide. A solution of 42.3 g (0.2 mol) of chloromethyl 2,4-dichlorophenyl ether in 60 ml of dimethylformamide was added dropwise to this solution, while stirring at 25° C. The mixture was subsequently stirred at 30° C. for 1 hour and then worked up by stirring into 1.5 liters of ice-water. The suspension thereby formed was filtered off with suction and the solid product precipitated was dried in air. 62 g (90.4% of theory) of 1-(2,4-dichlorophenoxy)-1 -(2-methoxycarbonyl-phenylthio)-methane were obtained in this manner in the form of colourless crystals of melting point 122°-124° C.

reactant | methyl 2-mercapto-benzoate | 0.2 mol, 33.6 g | SC1=C(C(=O)OC)C=CC=C1 | C8H8O2S
reactant | chloromethyl 2,4-dichlorophenyl ether | 0.2 mol, 42.3 g | ClC1=C(C=CC(=C1)Cl)OCCl | C7H5Cl3O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-(2,4-dichlorophenoxy)-1 -(2-methoxycarbonyl-phenylthio)-methane | 62 g, 90.4% | ClC1=C(OCSC2=C(C=CC=C2)C(=O)OC)C=CC(=C1)Cl | C15H12Cl2O3S
